US09238631B2
a) tert-Butyl (2R)-4-bromo-2-[(tert-butoxycarbonyl)amino]butanoate
A mixture of 1.39 g (5.05 mmol) tert-butyl N-(tert-butoxycarbonyl)-D-homoserinate (prepared according to J. Org. Chem. 1988, 53, 1900-1903), 899 mg N-bromo succinimide (5.05 mmol), and 1.68 g polymer bound triphenylphosphine (loading approx. 3 mmol/g, approx. 5.0 mmol) in dichloromethane (17 mL) was stirred overnight at room temperature. All solids were removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel (2.5→25% ethyl acetate in hexane) to give 580 mg of the title compound (34% yield).

reactant | tert-butyl N-(tert-butoxycarbonyl)-D-homoserinate | 5.05 mmol, 1.39 g | C(C)(C)(C)OC(=O)N[C@H](CCO)C(=O)OC(C)(C)C | C13H25NO5
reactant | N-bromo succinimide | 5.05 mmol, 899 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | approx. 5.0 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
product | tert-Butyl (2R)-4-bromo-2-[(tert-butoxycarbonyl)amino]butanoate | 580 mg, 34% yield | BrCC[C@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C13H24BrNO4
